US07329651B2
Ethyl 5-oxo-2-phenyl-2,5-dihydroisoxazole-4-carboxylate (5.68)
Hydrazine hydrate (1.7 g) was added dropwise over 30 min to a stirred suspension of 5% Rh—C (wet, 110 mg) and nitrobenzene (4.1 g) in THF (20 mL) at 15° C. controlled by ice-bath. The reaction mixture was warmed to 25-30° C. for 2 h, followed by filtration. The filtrate was diluted with an equal volume of dichloromethane, dried over sodium sulfate, then condensed to a small volume. Addition of petroleum ether to this solution led to the formation of a needle-like white solid as the fairly pure product of phenyl hydroxyamine (3.2 g, 86%). The reaction mixture of phenyl hydroxyamine (2.675 g, 25 mmol), diethyl ethoxymethylene malonate (4.324 g, 20 mmol) and ethanol (20 mL) was stirred at RT for 12 h to form a large amount of solid, which after warming on a water-bath for 3 h disappeared and reappeared when the reaction mixture was cooled down to RT. Filtration and washing with ethanol provided the title compound as white crystal like solid (4.25 g, 91%). 1H NMR (200 MHz, CDCl3) δ (ppm): 8.40 (s, 1H), 7.46-7.28 (m, 5H), 4.23(q, J=7.1 Hz, 2H). 1.31 (t, J.=7.1 Hz, 3H).

reactant | Hydrazine hydrate | 1.7 g | O.NN
reactant | nitrobenzene | 4.1 g | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | phenyl hydroxyamine | 3.2 g | C1(=CC=CC=C1)NO | C6H7NO
reactant | phenyl hydroxyamine | 25 mmol, 2.675 g | C1(=CC=CC=C1)NO | C6H7NO
reactant | diethyl ethoxymethylene malonate | 20 mmol, 4.324 g | CCOC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | Ethyl 5-oxo-2-phenyl-2,5-dihydroisoxazole-4-carboxylate | O=C1C(=CN(O1)C1=CC=CC=C1)C(=O)OCC | C12H11NO4
